US07842688B2
d) 3,3,7-Trimethyl-1-(2-trimethylsilanylethoxymethyl)-1,3-dihydroindol-2-one
The stirred solution of 2.00 g of 3,3,7-trimethyl-1,3-dihydroindol-2-one and 10 ml of N,N-dimethylformamide is cooled to 0° C. and admixed with 0.479 g of sodium hydride dispersion (60%). The mixture is stirred at 0° C. over 1 hour and subsequently admixed with 2.33 ml of 2-(trimethylsilyl)ethoxymethyl chloride. The ice bath is removed and the reaction mixture is stirred further at room temperature over 14 hours. The reaction mixture is poured onto ice-water (100 ml) and extracted with tert-butyl methyl ether (2×100 ml). The organic phases are washed successively with water (2×100 ml) and brine (1×100 ml), dried over sodium sulphate, filtered and concentrated by evaporation. The title compound is obtained as an orange oil from the residue by means of flash chromatography (SiO2 60F). Rf=0.51 (1:3 EtOAc-heptane); Rt=5.93.

reactant | 3,3,7-trimethyl-1,3-dihydroindol-2-one | 2.00 g | CC1(C(NC2=C(C=CC=C12)C)=O)C | C11H13NO
reactant | sodium hydride | 0.479 g | [H-].[Na+]
reactant | 2-(trimethylsilyl)ethoxymethyl chloride | 2.33 ml | C[Si](CCOCCl)(C)C | C6H15ClOSi
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 3,3,7-Trimethyl-1-(2-trimethylsilanylethoxymethyl)-1,3-dihydroindol-2-one | CC1(C(N(C2=C(C=CC=C12)C)COCC[Si](C)(C)C)=O)C | C17H27NO2Si
